US05234942
1.9 g. of phosphorus oxychloride was slowly added to 1.48 g. of N,N-dimethylacetamide at 0° C. The mixture was allowed to attain room temperature and a solution of 1.0 g. 6-(2-ethylhexanamido)indole in 2 ml. N,N-dimethylacetamide was added. After 15 minutes the reaction solution was basified to pH 14 with 20% w/v sodium hydroxide solution, briefly heated under reflux, then cooled and extracted with ethyl acetate. The combined extracts were washed with water, then with brine, dried (MgSO4) and evaporated to give 0.93 g (80%) of 3-acetyl-6-(2-ethylhexanamido)indole (DD) as an orange powder; partial NMR: 2.5 (s, 3H), COCH3), 7.7 (d, 1H, H2 -indole), 9.8 (br, s, 1H, NH).

reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 6-(2-ethylhexanamido)indole | C(C)C(C(=O)NC1=CC=C2C=CNC2=C1)CCCC | C16H22N2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 3-acetyl-6-(2-ethylhexanamido)indole | 0.93 g, 80% | C(C)(=O)C1=CNC2=CC(=CC=C12)NC(C(CCCC)CC)=O | C18H24N2O2
